US06703347B2
4-Fluoro-3-nitrophenylacetic acid (31.0 g, 0.156 mol) was added to a mixture of concentrated sulfuric acid (1.6 ml) and methanol (160 ml) and the mixture was stirred for 3 days at room temperature. Most of the solvent was removed in vacuo and the residue was partitioned between diethyl ether and water. The organic phase was washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo to give methyl 4-fluoro-3-nitrophenylacetate (27.2 g) as a yellow oil.

reactant | 4-Fluoro-3-nitrophenylacetic acid | 0.156 mol, 31.0 g | FC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H6FNO4
reactant | sulfuric acid | 1.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 160 ml | CO | CH4O
product | methyl 4-fluoro-3-nitrophenylacetate | 27.2 g | FC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C9H8FNO4
